US04407927
In 50 ml of anhydrous ethanol were dissolved 35.4 g of p-diethylaminobenzaldehyde and 11.2 g of 4-methylcyclohexanone, and 20 ml of 10% ethanolic solution of sodium ethoxide was added dropwise to the resulting solution and the resulting mixture was subjected to reaction under reflux for 5 hours. The reaction mixture was cooled, and the crystals thus precipitated were collected by filtration, and then recrystallized from toluene, to obtain 30.2 g of 2,6-bis(4'-diethylaminobenzal)-4-methylcyclohexanone (m.p. 169° C.).

reactant | p-diethylaminobenzaldehyde | 35.4 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | 4-methylcyclohexanone | 11.2 g | CC1CCC(CC1)=O | C7H12O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,6-bis(4'-diethylaminobenzal)-4-methylcyclohexanone | 30.2 g | C(C)N(C1=CC=C(C=C2C(C(CC(C2)C)=CC2=CC=C(C=C2)N(CC)CC)=O)C=C1)CC | C29H38N2O
